US03931209
Preparation of 2-Propyl-4-(5-methoxy-1,3,4-thiadiazol-2-yl)-1,2,4-triazolidin-3-one
2-Propyl-4-(5-methoxy-1,3,4-thiadiazol-2-yl)-semicarbazide (0.1 mole) dissolved in methanol (100 ml) is charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. Aqueous formaldehyde (0.2 mole; 37% concentration) is then added to the reaction vessel with stirring. Dilute aqueous potassium hydroxide is added to the reaction mixture to adjust the pH to between 7 and 8 and stirring is continued for a period of about 20 minutes resulting in the formation of a solid precipitate. The precipitate is recovered by filtration, is recrystallized and is dried under vacuum to yield the desired product 2-propyl-4-(5-methoxy-1,3,4-thiadiazol-2-yl)-1,2,4-triazolidin-3-one.

reactant | 2-Propyl-4-(5-methoxy-1,3,4-thiadiazol-2-yl)-semicarbazide | 0.1 mole | C(CC)N(N)C(=O)NC=1SC(=NN1)OC | C7H13N5O2S
reactant | formaldehyde | 0.2 mole | C=O | CH2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-propyl-4-(5-methoxy-1,3,4-thiadiazol-2-yl)-1,2,4-triazolidin-3-one | C(CC)N1NCN(C1=O)C=1SC(=NN1)OC | C8H13N5O2S
